US08389523B2
To a slurry containing 5.7 g (22.6 mmol) of ethyl 5-chloro-2-oxo-1,2-dihydroquinoxaline-3-carboxylate, 6.9 g (45.4 mmol) of 4-methoxyphenylboric acid, 8.2 g (45.1 mmol) of anhydrous copper (II) acetate and chloroform (200 ml), 3.6 g (45.5 mmol) of pyridine and 4.6 g (45.5 mmol) of triethylamine were added dropwise, and the mixture was stirred for 72 hours at room temperature. The reaction mixture was washed with 10% hydrochloric acid, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue thus obtained was isolated by silica gel chromatography (developing solvent: ethyl acetate:hexane=2:3), and the isolated solid was washed with diisopropyl ether, to obtain 6.3 g (yield: 78%) of ethyl 5-chloro-1-(4-methoxyphenyl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylate as a pale yellow powder.

reactant | ethyl 5-chloro-2-oxo-1,2-dihydroquinoxaline-3-carboxylate | 22.6 mmol, 5.7 g | ClC1=C2N=C(C(NC2=CC=C1)=O)C(=O)OCC | C11H9ClN2O3
reactant | 4-methoxyphenylboric acid | 45.4 mmol, 6.9 g | COC1=CC=C(C=C1)OB(O)O | C7H9BO4
reactant | pyridine | 45.5 mmol, 3.6 g | N1=CC=CC=C1 | C5H5N
reactant | triethylamine | 45.5 mmol, 4.6 g | C(C)N(CC)CC | C6H15N
catalyst | copper (II) acetate | 45.1 mmol, 8.2 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
product | ethyl 5-chloro-1-(4-methoxyphenyl)-2-oxo-1,2-dihydroquinoxaline-3-carboxylate | 6.3 g, yield: 78% | ClC1=C2N=C(C(N(C2=CC=C1)C1=CC=C(C=C1)OC)=O)C(=O)OCC | C18H15ClN2O4
